US07700594B2
4-Bromo-2-nitro-N-phenylaniline
A mixture of 1-bromo-4-fluoro-3-nitrobenzene (2270 mg, 10.01 mmol), aniline (3 ml) and DMF (20 ml) was heated at 100° C. under an atmosphere of Nitrogen for 7 h. The mixture was then concentrated in vacuo, and the residue triturated with heptane (30 ml) to give the desired product. 1H NMR (400 MHz, CDCl3) δ=7.11 (d, 1H, J=9.2 Hz), 7.25-7.29 (m, 3H), 7.40-7.45 (m, 3H), 8.35 (d, 1H, J=2.4 Hz) and 9.45 (brs, 1H).

reactant | 1-bromo-4-fluoro-3-nitrobenzene | 10.01 mmol, 2270 mg | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | aniline | 3 ml | NC1=CC=CC=C1 | C6H7N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-Bromo-2-nitro-N-phenylaniline | BrC1=CC(=C(NC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C12H9BrN2O2
